US07271190B2
(Step A) Synthesis of ethyl 3-methyl-6-hydroxy-1H-indole-2-carboxylate
Ethyl 3-methyl-6-methoxy-1H-indole-2-carboxylate (1.00 g; synthesized according to the disclosures in the literature (Gan et al., J. Org. Chem., vol. 62, pp. 9298-9304, 1997)) was dissolved in methylene chloride (dehydrated, 13 mL), and boron tribromide (1 M/methylene chloride, 17.2 mL) was added dropwise under ice-cooling. The resulting mixture was allowed to warm to room temperature and stirred for 40 minutes. The reaction solution was then cooled with ice, followed by addition of water. The resulting mixture was extracted with chloroform, washed with saturated brine and dried over sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (3:1-2:1 hexane/ethyl acetate) to yield the title compound (480 mg).

reactant | Ethyl 3-methyl-6-methoxy-1H-indole-2-carboxylate | CC1=C(NC2=CC(=CC=C12)OC)C(=O)OCC | C13H15NO3
reactant | boron tribromide | 1 M, 17.2 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-methyl-6-hydroxy-1H-indole-2-carboxylate | 480 mg | CC1=C(NC2=CC(=CC=C12)O)C(=O)OCC | C12H13NO3
